US07414061B2
b) N-Cyclopentyl-4-{4-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzamide
As described for Example 71c, cyclopentylamine was converted, using 4-{4-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid (56 mg, 0.17 mmol) instead of 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid, to the title compound (54 mg, 76%) which was obtained as an off-white solid. MS: m/e=430.1 [M+H]+.

reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
reactant | 4-{4-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid | 0.17 mmol, 56 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C(=O)O)C=C1)C | C20H14FN3O3
product | N-Cyclopentyl-4-{4-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzamide | 54 mg, 76% | C1(CCCC1)NC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C25H23FN4O2
